US06288086B1
4-[4-(4-Chloro-phenoxy)-benzenesulfonyl]-1-ethyl-piperidine-4-carboxylic acid ethyl ester was prepared according to the general method outlined in example 83 starting from [4-(4-chloro-phenoxy)-benzenesulfonyl]-acetic acid ethyl ester (4 g, 11.3 mmol) and ethyl-bis-(2-chloro-ethyl)-amine (2.32 g, 16.9 mmol). Yield 3.36 g (66%); brown oil; MS: 452.0 (M+H)+

reactant | [4-(4-chloro-phenoxy)-benzenesulfonyl]-acetic acid ethyl ester | 11.3 mmol, 4 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O | C16H15ClO5S
reactant | ethyl-bis-(2-chloro-ethyl)-amine | 16.9 mmol, 2.32 g | C(C)N(CCCl)CCCl | C6H13Cl2N
product | 4-[4-(4-Chloro-phenoxy)-benzenesulfonyl]-1-ethyl-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CC)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C22H26ClNO5S
